US05192766
Ethyl 3,5-dichlorocinnamate
To a mixture of sodium hydride (0.84 g: 55% dispersion in mineral oil) and tetrahydrofuran (40 ml) was dropwise added a solution of ethyl diethylphosphonoacetate (4.33 g) in tetrahydrofuran (30 ml) with ice-cooling of 6° to 12° C. over a 12 minute period. After stirring at room temperature for 30 minutes, to the mixture thus obtained was dropwise added a solution of 3,5-dichlorobenzaldehyde (3.07 g) in tetrahydrofuran (20 ml) with ice-cooling of 8° to 11° C. over a 10 minutes period. After stirring at room temperature for 4 hours, the reaction mixture was poured into water and extracted twice with ethyl acetate. The combined extract was washed with water, dried and concentrated. The residue was purified by flash column chromatography through silica gel (100 g). Fractions eluted with a 99:1 mixture of hexane and ethyl acetate were collected and worked up to afford the title compound (3.33 g), melting at 71°-73° C.

reactant | sodium hydride | 0.84 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 4.33 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 3,5-dichlorobenzaldehyde | 3.07 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Ethyl 3,5-dichlorocinnamate | 3.33 g | ClC=1C=C(C=CC(=O)OCC)C=C(C1)Cl | C11H10Cl2O2
